US20010006969A1
2-Allylamino-4-heptylamino-7-methylthieno[3,2-d] pyrimidine
In a sealed tube were heated 82 mg (1.2 mmol) of 2-chloro-4-heptylamino-7-methylthieno[3,2-d]pyrimidine and 1.10 g (19.2 mmol) of allylamine at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate (50 ml×2). The organic layer was washed with brine and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane={fraction (1/10)}) to give 261 mg (yield: 68.3%) of the title compound.

reactant | 2-chloro-4-heptylamino-7-methylthieno[3,2-d]pyrimidine | 1.2 mmol, 82 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)NCCCCCCC | C14H20ClN3S
reactant | allylamine | 19.2 mmol, 1.10 g | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-4-heptylamino-7-methylthieno[3,2-d] pyrimidine | 261 mg, yield: 68.3% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NCCCCCCC | C17H26N4S
